US04035369
A mixture of 5.6 parts of 2-(2,3-dihydro-2-oxo-1H-benzimidazol-1-yl)ethyl methanesulfonate, 4.9 parts of (4-fluorophenyl) (4-piperidinyl) methanone hydrochloride, 8 parts of sodium carbonate and 200 parts of 4-methyl-2-pentanone is stirred and refluxed for 7 hours with water-separator. After cooling, water is added and the layers are separated. The organic phase is dried, filtered and evaporated. The oily residue is purified by column-chromatography over silica gel using a mixture of trichloromethane and 10% of methanol as eluent. The pure fractions are collected and the eluent is evaporated. The residue is crystallized from 4-methyl-2-pentanone, yielding 4.3 parts of 1-{2-[4-(4-fluorobenzoyl)-1-piperidinyl]ethyl}-1,3-dihydro-2H-benzimidazol-2-one; mp. 163.6° C.

reactant | 2-(2,3-dihydro-2-oxo-1H-benzimidazol-1-yl)ethyl methanesulfonate | CS(=O)(=O)OCCN1C(NC2=C1C=CC=C2)=O | C10H12N2O4S
reactant | (4-fluorophenyl) (4-piperidinyl) methanone hydrochloride | Cl.FC1=CC=C(C=C1)C(=O)C1CCNCC1
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | 4-methyl-2-pentanone | CC(CC(C)=O)C | C6H12O
solvent | water | O | H2O
product | 1-{2-[4-(4-fluorobenzoyl)-1-piperidinyl]ethyl}-1,3-dihydro-2H-benzimidazol-2-one | FC1=CC=C(C(=O)C2CCN(CC2)CCN2C(NC3=C2C=CC=C3)=O)C=C1 | C21H22FN3O2
